US07732596B2
2-(β-D-Glucopyranosyl)-7-(4-methylbenzyl)benzo[b]thiophene
To a solution of 2-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-7-(4-methylbenzyl)benzo[b]thiophene (0.95 g) and ethanethiol (1.8 mL) in dichloromethane (15 mL) was added boron trifluoride diethyl ether complex (2.1 mL) at room temperature. The reaction mixture was stirred at room temperature for 3 hours, and a saturated potassium carbonate aqueous solution was added to the mixture. The mixture was extracted with ethyl acetate. The organic layer washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give the title compound (0.16 g).

reactant | 2-(2,3,4,6-tetra-O-benzyl-β-D-glucopyranosyl)-7-(4-methylbenzyl)benzo[b]thiophene | 0.95 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC2=C(S1)C(=CC=C2)CC2=CC=C(C=C2)C | C50H48O5S
reactant | ethanethiol | 1.8 mL | C(C)S | C2H6S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-(β-D-Glucopyranosyl)-7-(4-methylbenzyl)benzo[b]thiophene | 0.16 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=CC2=C(S1)C(=CC=C2)CC2=CC=C(C=C2)C | C22H24O5S
